US07109200B2
4-(6-Chloronaphthalene-2-sulphonyl)-1-[4-(2-methoxyethoxycarbonylamino)-1-(4-pyridyl)-4-piperidylmethyl]-2-piperazinone
A solution of 1-[4-amino-1-(4-pyridyl)-4-piperidylmethyl]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone (206 mg), 2-methoxyethyl-4-nitrophenyl carbonate (386 mg) and N-ethyldiisopropylamine (0.278 ml) in DMF (5 ml) was stirred at 60° C. overnight. The reaction mixture was concentrated under reduced pressure, ethyl acetate was added, the mixture was washed successively with a 10% aqueous sodium carbonate solution, an aqueous saturated sodium bicarbonate solution and an aqueous saturated sodium chloride solution, dried, and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:10% aqueous ammonia-methanol=90:10→80:20), and crystallized from a mixed solution of acetone and ethyl acetate to obtain the colorless crystalline title compound (145 mg).

reactant | 1-[4-amino-1-(4-pyridyl)-4-piperidylmethyl]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone | 206 mg | NC1(CCN(CC1)C1=CC=NC=C1)CN1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C25H28ClN5O3S
reactant | 2-methoxyethyl-4-nitrophenyl carbonate | 386 mg | C(OC1=C(C=C(C=C1)[N+](=O)[O-])CCOC)([O-])=O
reactant | N-ethyldiisopropylamine | 0.278 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(6-Chloronaphthalene-2-sulphonyl)-1-[4-(2-methoxyethoxycarbonylamino)-1-(4-pyridyl)-4-piperidylmethyl]-2-piperazinone | 145 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)CC1(CCN(CC1)C1=CC=NC=C1)NC(=O)OCCOC)=O | C29H34ClN5O6S
